data/oMe_Silver.jsonl
{"reaction_id": "NR-002_1-c1ccc(C(F)(F)F)cc1_2-c1ccccc1","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)Cc1ccccc1","C(=O)(c1ccc(C(F)(F)F)cc1)Cc1ccccc1"],"products_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=Cc1ccccc1)(O)c1ccc(C(F)(F)F)cc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)Cc1ccccc1","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
{"reaction_id": "NG-004_1-C(C)(C)C_2-C1CCCC1_3-C","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(C(C)(C)C)C=O","C(C1CCCC1)(C)=O"],"products_smiles": ["C(C1CCCC1)(C)=C(C=O)C(C)(C)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCC1)(C)([O-])C(C=O)C(C)(C)C","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C1CCCC1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C)(O)C(C=O)C(C)(C)C","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C)(O)C=C([O-])C(C)(C)C","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCC1)(C)=C(C=O)C(C)(C)C","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
